US04704227
6 g of 3-(4'-pentyl-2-fluorobiphenyl-4-yl)-propionaldehyde (obtainable by reaction of 4-(2-fluoro-4'-pentylbiphenylyl)-magnesium bromide with ethylene oxide and subsequent oxidation of the resulting alcohol with pyridinium chlorochromate) and 3.5 g of 2-heptylpropane-1,3-diol are heated with a spatula tip of p-toluenesulfonic acid in 100 ml of toluene, using a water separator, until no further water is foamed. After cooling, the mixture is washed with bicarbonate solution and water until neutral and dried over sodium sulfate and the toluene is distilled off. After customary working-up, 1-(4'-pentyl-2-fluorobiphenyl-4-yl)-2-(5-heptyl-1,3-dioxan-2-yl)-ethane is obtained.

reactant | 3-(4'-pentyl-2-fluorobiphenyl-4-yl)-propionaldehyde | 6 g | C(CCCC)C1=CC=C(C=C1)C1=C(C=C(C=C1)CCC=O)F | C20H23FO
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-heptylpropane-1,3-diol | 3.5 g | C(CCCCCC)C(CO)CO | C10H22O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(4'-pentyl-2-fluorobiphenyl-4-yl)-2-(5-heptyl-1,3-dioxan-2-yl)-ethane | C(CCCC)C1=CC=C(C=C1)C1=C(C=C(C=C1)CCC1OCC(CO1)CCCCCCC)F | C30H43FO2
